US04826866
3-(Cyclopropylamino)-5-methyl-1H-pyrazole-4-carboxylic acid, ethyl ester hydrochloride [1:1]
A stirred slurry of 10.4 g (0.079 mole) of 4-cyclopropyl-3-thiosemicarbazide under nitrogen atmosphere was treated with 13 g (0.079 mole) of ethyl 2-chloroacetoacetate, stirred at ambient temperature for 1 hr, treated with 30 mL of 2N ethanolic hydrogen chloride and heated to reflux. The reaction mixture was allowed to cool to ambient temperature while stirring for ~72 hr. the sulfur residue was removed by filtration and the filtrate concentrated in vacuo to an orange oil which solidified. Recrystallization twice from acetone gave 7.4 g of large blade-like crystals, after drying for 2 hr at 98° C. under reduced pressure, mp 147°-148.5° C. The filtrates gave an additional 6 g of crude product. The 2 solids were combined and recrystallized from methyl ethyl ketone to give 6.3 g of white crystalline powder, mp 151°-152° C.

reactant | 4-cyclopropyl-3-thiosemicarbazide | 0.079 mole, 10.4 g | C1(CC1)NC(NN)=S | C4H9N3S
reactant | ethyl 2-chloroacetoacetate | 0.079 mole, 13 g | ClC(C(=O)OCC)C(=O)C | C6H9ClO3
solvent | hydrogen chloride | 2N, 30 mL | Cl | ClH
product | 3-(Cyclopropylamino)-5-methyl-1H-pyrazole-4-carboxylic acid, ethyl ester hydrochloride | 6.3 g | Cl.C1(CC1)NC1=NNC(=C1C(=O)OCC)C | InChI=1S/C10H15N3O2.ClH/c1-3-15-10(14)8-6(2)12-13-9(8)11-7-4-5-7;/h7H,3-5H2,1-2H3,(H2,11,12,13);1H
